US05804601
7-(1-Tosylamino-2-naphthyl)heptanohydroxamic acid Using methoxymethyl 7-(1-amino-2-naphthyl)heptanoate and tosyl chloride, the procedure of Reference Example 50 was otherwise repeated to provide 7-(1-tosylamino-2-naphthyl)heptanoic acid.

reactant | 7-(1-Tosylamino-2-naphthyl)heptanohydroxamic acid | S(=O)(=O)(C1=CC=C(C)C=C1)NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)NO | C24H28N2O4S
reactant | methoxymethyl 7-(1-amino-2-naphthyl)heptanoate | NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)OCOC | C19H25NO3
reactant | tosyl chloride | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
product | 7-(1-tosylamino-2-naphthyl)heptanoic acid | S(=O)(=O)(C1=CC=C(C)C=C1)NC1=C(C=CC2=CC=CC=C12)CCCCCCC(=O)O | C24H27NO4S
